US08008298B2
A solution of pyrrolidine (1.66 g, 23.27 mmol), in dry tetrahydrofuran (20 ml) was cooled to −78° C. under argon atmosphere. A solution of n-BuLi (15.5 ml, 1.5 M in hexanes) was added via slow drop-wise addition over 5 minutes. After complete addition the cooling bath was removed and the mixture allowed to warm to ice bath temperature over 30 minutes. A second oven dried flask was charged with 1,3-dibromo-5-methoxymethoxy-benzene (5.74 g, 19.4 mmol) and lithium bromide (1.68 g, 19.4 mmol) and taken up in dry tetrahydrofuran (10 ml). This flask was then cooled to 78° C. under argon. The contents of the first flask (slurry containing the lithio salt of pyrrolidine) was taken up in a syringe with wide bore needle and added via drop-wise addition to the second flask (over 10 minutes). The mixture was allowed to slowly warm to ambient temperature over night. The mixture was quenched via the addition of 1 N HCl (23 ml), saturated aqueous NH4Cl (34 ml) and water (40 ml). Ethyl acetate (80 ml) was added and the material shaken in a separtatory funnel. The ethyl acetate phase was collected and washed with an equal volume of 50% diluted brine solution. The aqueous phases were back extracted with ethyl acetate (2×50 ml), the organics combined, dried (MgSO4), filtered and stripped to provide a yellow remainder. The oil was purified by silica gel chromatography using 4%-8% EtOAc in hexanes as eluant to provide 930 mg of 1-(3-Bromo-5-methoxymethoxy-phenyl)-pyrrolidine as a light yellow mobile oil.

reactant | pyrrolidine | 23.27 mmol, 1.66 g | N1CCCC1 | C4H9N
reactant | n-BuLi | 1.5 M, 15.5 ml | [Li]CCCC
reactant | 1,3-dibromo-5-methoxymethoxy-benzene | 19.4 mmol, 5.74 g | BrC1=CC(=CC(=C1)OCOC)Br | C8H8Br2O2
reactant | lithium bromide | 19.4 mmol, 1.68 g | [Br-].[Li+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 1-(3-Bromo-5-methoxymethoxy-phenyl)-pyrrolidine | 930 mg | BrC=1C=C(C=C(C1)OCOC)N1CCCC1 | C12H16BrNO2
